US08710243B2
4-(3-(4-methoxyphenyl)-1H-indol-2-yl)-3,5-dimethylisoxazole (15 mg, 0.06 mmol) and isocyanatoethane (40 μl) were mixed 1 ml dry DMF under nitrogen. The mixture was heated at 70° C. for 3 h. 100 μl isocyanatoethane were added and the heating at 70° C. continued over night. The crude reaction mixture was purified by prep HPLC. 8.0 mg 2-(3,5-dimethylisoxazol-4-yl)-N-ethyl-3-(4-methoxyphenyl)-1H-indole-1-carboxamide was obtained.

reactant | 4-(3-(4-methoxyphenyl)-1H-indol-2-yl)-3,5-dimethylisoxazole | 0.06 mmol, 15 mg | COC1=CC=C(C=C1)C1=C(NC2=CC=CC=C12)C=1C(=NOC1C)C | C20H18N2O2
reactant | isocyanatoethane | 40 μl | N(=C=O)CC | C3H5NO
reactant | isocyanatoethane | 100 μl | N(=C=O)CC | C3H5NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 2-(3,5-dimethylisoxazol-4-yl)-N-ethyl-3-(4-methoxyphenyl)-1H-indole-1-carboxamide | 8.0 mg | CC1=NOC(=C1C=1N(C2=CC=CC=C2C1C1=CC=C(C=C1)OC)C(=O)NCC)C | C23H23N3O3
